US04423234
During a 30 minute period a solution of 3-chloro-2-methylaniline (8.3 g, 0.2 mole) in thiophene (100 ml) was added dropwise to a stirred mixture of t-butyl nitrite (30.9 g, 0.3 mole) and copper powder (10.0 g, 0.16 mole) in thiophene (1.9 l). After complete addition, the mixture was heated at 60° for two hours, then at reflux for approximately 18 hours. The reaction mixture was cooled, filtered, and the filtrate evaporated under reduced pressure to leave a residue. The residue was subjected to column chromatography on silica gel, elution with toluene. The toluene was evaporated under reduced pressure to leave a residue which was rechromatographed on silica gel, elution with n-heptane. The fractions which contained the desired product was combined and evaporated under reduced pressure to leave an oil. The oil was purified by distillation under reduced pressure to yield 2-(3-chloro-2-methylphenyl)thiophene (25.9 g, 62.2% yield, bp 93°/0.1 mm). This experiment is designated Run 5/1 in the following tabulation of several experiments conducted with and without copper, but under otherwise similar conditions.

reactant | 3-chloro-2-methylaniline | 0.2 mole, 8.3 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | t-butyl nitrite | 0.3 mole, 30.9 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | thiophene | 100 ml | S1C=CC=C1 | C4H4S
reactant | thiophene | 1.9 l | S1C=CC=C1 | C4H4S
catalyst | copper | 0.16 mole, 10.0 g | [Cu] | Cu
product | 2-(3-chloro-2-methylphenyl)thiophene | 25.9 g, 62.2% yield | ClC=1C(=C(C=CC1)C=1SC=CC1)C | C11H9ClS
